* C:\Users\furushima\Desktop\LTspice\SRLatch\SRLatch.asc
M1 N001 S Vdd Vdd PMOS
M2 N001 S Vss Vss NMOS
M3 Q N001 N002 N002 NMOS
M4 Q N001 Vdd Vdd PMOS
M5 Q ~Q Vdd Vdd PMOS
M6 N002 ~Q Vss Vss NMOS
M7 N003 R Vdd Vdd PMOS
M8 N003 R Vss Vss NMOS
M9 ~Q N003 N004 N004 NMOS
M10 ~Q N003 Vdd Vdd PMOS
M11 ~Q Q Vdd Vdd PMOS
M12 N004 Q Vss Vss NMOS
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\furushima\AppData\Local\LTspice\lib\cmp\standard.mos
.backanno
.end
